US05739336
A mixture of 1-(5-amino-2,4-dimethoxyphenyl)-5-chloro-1-pentanone (0.54 g, 2 mmol), prepared as in Example 13, 4-trifluoromethylbenzenesulfonyl chloride (0.51 g, 2.1 mmol) triethylamine (0.25 g, 2.5 mmol) and THF (approximately 50 mL) was stirred 16 hours at approximately 25° C. The mixture was concentrated and the residue was partitioned between ethyl acetate and dilute ammonium hydroxide. The organic layer was washed with water (1×) and then brine (1×), dried (K2CO3), filtered and concentrated to give N-[5-(5-chloropentanoyl)-2,4-dimethoxyphenyl]-4-trifluoromethylbenzenesulfonamide (0.8 g, 1.7 mmol), m.p. 150°-153° C.

reactant | 1-(5-amino-2,4-dimethoxyphenyl)-5-chloro-1-pentanone | 2 mmol, 0.54 g | NC=1C(=CC(=C(C1)C(CCCCCl)=O)OC)OC | C13H18ClNO3
reactant | 4-trifluoromethylbenzenesulfonyl chloride | 2.1 mmol, 0.51 g | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
solvent | THF | approximately 50 mL | C1CCOC1 | C4H8O
product | N-[5-(5-chloropentanoyl)-2,4-dimethoxyphenyl]-4-trifluoromethylbenzenesulfonamide | 1.7 mmol, 0.8 g | ClCCCCC(=O)C=1C(=CC(=C(C1)NS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)OC)OC | C20H21ClF3NO5S
